US04564476
a. 2,2-Dimethyl-3-(4-methoxyphenylmethoxy)-propanol
A mixture of 7.7 g (0.32 mole) of sodium hydride and 80 ml of DMF was stirred under an atmosphere of N2 and cooled with an ice-water bath. A solution of 33 g (0.32 mole) of 2,2-dimethylpropandiol in 100 ml of DMF was added dropwise. Stirring was continued until the gas evolution stopped, then a solution of 50 g (0.32 mole) 4-methoxybenzyl chloride was added. The reaction mixture was stirred at room temperature overnight. The resulting solution was poured into an ice-water mixture and the aqueous solution was extracted with ethyl ether three times. The ether solution was washed with H2O, saturated brine, and then dried over MgSO4.

reactant | sodium hydride | 0.32 mole, 7.7 g | [H-].[Na+]
reactant | 2,2-dimethylpropandiol | 0.32 mole, 33 g | CC(C(O)O)(C)C | C5H12O2
reactant | 4-methoxybenzyl chloride | 0.32 mole, 50 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-3-(4-methoxyphenylmethoxy)-propanol | CC(CO)(COCC1=CC=C(C=C1)OC)C | C13H20O3
